US08748446B2
600 mg (0.94 mmol) of 6-(4,5,6-triiodo-2,3-dimethyl-3H-3-indolyl)hexanoic acid was heated with 600 mg (4.7 mmol) of 1,3-propane sultone at 100° C. for 40 minutes. The raw product was column purified (Silica gel 60, 0-40% methanol-chloroform) to give 300 mg of 3-[3-(5-carboxypentyl)-4,5,6-triiodo-2,3-dimethyl-3H-1-indoliumyl]-1-propanesulfonate: 7.39 (1H, s, arom.), 4.31 (2H, m, NCH2), 3.27 (3H, s, CH3), 2.34-2.02 (2H, m, CH2), 2.19 (2H, t, CH2CO), 1.98-1.65 (4H, m, CH2), 1.31 (3H, s, CH3), 1.43-1.00 (4H, m, (CH2)3), 0.62-0.35 (2H, m, CH2).

reactant | 6-(4,5,6-triiodo-2,3-dimethyl-3H-3-indolyl)hexanoic acid | 0.94 mmol, 600 mg | IC1=C2C(C(=NC2=CC(=C1I)I)C)(C)CCCCCC(=O)O | C16H18I3NO2
reactant | 1,3-propane sultone | 4.7 mmol, 600 mg | C1COS(=O)(=O)C1 | C3H6O3S
product | 3-[3-(5-carboxypentyl)-4,5,6-triiodo-2,3-dimethyl-3H-1-indoliumyl]-1-propanesulfonate | 300 mg | C(=O)(O)CCCCCC1(C(=[N+](C2=CC(=C(C(=C12)I)I)I)CCCS(=O)(=O)[O-])C)C | C19H24I3NO5S
